US04022786
When proceeding as described in Example 2, but replacing 1-methyl-3-benzoyl-4-hydroxy-4-phenylpiperidine (used as starting material in said example) by 1-secondary butyl-3-benzoyl-4-phenyl-4-hydroxypiperidine and reacting 25 g. thereof with benzene in the presence of aluminum chloride, 17 g. of the crude base 1-secondary butyl-4,4-diphenylpiperidine are obtained. The crude base is not purified by distillation in a high vacuum but by adding ether saturated with hydrogen chloride to its solution in acetic acid ethyl ester. Thereby, the crystalline hydrochloride is precipitated. It melts at 242° to 245° C. (with decomposition) after recrystallization from acetic acid ethyl ester.

reactant | 1-secondary butyl-3-benzoyl-4-phenyl-4-hydroxypiperidine | C(C)(CC)N1CC(C(CC1)(O)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C22H27NO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-secondary butyl-4,4-diphenylpiperidine | C(C)(CC)N1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H27N
